US04235856
In another embodiment of the present invention for the production of zeolite X, zeolite A or combinations thereof, the present invention achieves its objectives by dissolving sand in a sodium hydroxide solution at a pressure of at least 100 psig heated to a temperature of at least 130° C. to produce a sodium silicate solution having a silica to sodium oxide molar ratio of between 2.4:1 and 2.8:1, activating the sodium silicate thus formed with alumina, forming a sodium aluminate solution, adding the sodium aluminate solution to the sodium silicate solution so that all of the sodium aluminate solution is added within 30 seconds to form a reaction mixture comprising a sodium silicate mother liquor and an amorphous sodium alumino silicate pigment having, in total, a certain composition, heating the mixture to a temperature of from 80° to 120° C., reacting the mixture at a temperature of from 80° to 120° C., then recovering the zeolite produced. Preferably the sodium silicate solution has a silica to sodium oxide molar ratio of about 2.4:1. The sodium silicate is activated with from 50 to 2000 ppm alumina at a temperature of from 15° to 100° C. for at least 10 minutes, preferably with from 400 to 600 ppm alumina at room temperature, most preferably with about 600 ppm alumina. Both the sodium silicate solution and the sodium aluminate solution are heated to a temperature of between 80° to 120° C., preferably 90° C., prior to the addition of the sodium aluminate to the sodium silicate. The reaction mixture is reacted at a temperature of from 80° to 120° C. until a zeolite is formed, preferably at a temperature of from 80° to 100° C., most preferably at a temperature of about 100° C. The sodium silicate mother liquor may be recycled as a source of sodium silicate solution.

reactant | zeolite A | O.[O-2].[O-2].[O-2].[O-2].[O-2].[O-2].[Na+].[Na+].[Al+3].[Al+3].[Si+4]
solvent | sodium hydroxide | [OH-].[Na+]
product | sodium silicate | [Si]([O-])([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4Na.O4Si/c;;;;1-5(2,3)4/q4*+1;-4
